US06468998B1
4-Methylquinuclidine-3-carbonyl chloride and (S)-3-amino-1-(2-phenylethyl)pyrrolidine were reacted under the same conditions as in Example 53 to give (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-4-methylquinuclidine-3-carboxamide.

reactant | 4-Methylquinuclidine-3-carbonyl chloride | CC12C(CN(CC1)CC2)C(=O)Cl | C9H14ClNO
reactant | (S)-3-amino-1-(2-phenylethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=CC=C1 | C12H18N2
product | (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-4-methylquinuclidine-3-carboxamide | C1(=CC=CC=C1)CCN1CC(CC1)NC(=O)[C@@H]1CN2CCC1(CC2)C | C21H31N3O
